US07378418B2
Preparation of 2-(4-(Trifluoromethyl)benzyl-7-(4-chloro-phenyl)-8-phenoxy-2H-[1,2,4]triazolo[4,3-b]pyridazin-3-one
To a solution of 2-(4-(trifluoromethyl)benzyl-8-chloro-7-(4-chlorophenyl)-2H-[1,2,4]triazolo[4,3-b]pyridazin-3-one (16.5 mg, 0.376 mmol) prepared as described in Example 359, in 0.3 mL of DMF at RT, potassium carbonate (19.4 mg, 0.14 mmol) was added followed by phenol (13.2 mg, 0.14 mmol). The mixture was stirred for 4 h. After this time, the reaction mixture was diluted with 5 mL of 1N aqueous sodium hydroxide. The precipitate was collected by filtration and washed with 1N aqueous NaOH, and water. The solid was dried to the title compound, 2-(4-(trifluoromethyl)benzyl-7-(4-chlorophenyl)-8-phenoxy-2H-[1,2,4]triazolo[4,3-b]pyridazin-3-one (15.8 mg) as light yellow solid. HPLC RT: 4.02 min; MS, M+H=497; 1H NMR (CDCl3): δ 8.21 (s, 1H), 7.52-6.97 (m, 13H), 5.12 (s, 2H).

reactant | 4-(trifluoromethyl)benzyl-8-chloro-7-(4-chlorophenyl)-2H-[1,2,4]triazolo[4,3-b]pyridazin-3-one | 0.376 mmol, 16.5 mg | FC(C1=CC=C(CN2N=C3N(N=CC(=C3Cl)C3=CC=C(C=C3)Cl)C2=O)C=C1)(F)F | C19H11Cl2F3N4O
reactant | potassium carbonate | 0.14 mmol, 19.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenol | 0.14 mmol, 13.2 mg | C1(=CC=CC=C1)O | C6H6O
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
product | 4-(Trifluoromethyl)benzyl-7-(4-chloro-phenyl)-8-phenoxy-2H-[1,2,4]triazolo[4,3-b]pyridazin-3-one | FC(C1=CC=C(CN2N=C3N(N=CC(=C3OC3=CC=CC=C3)C3=CC=C(C=C3)Cl)C2=O)C=C1)(F)F | C25H16ClF3N4O2
